US07507729B2
d) 9-Bromo-2-methoxymethyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one
As described for example 4d) 2-chloro-N-[4-bromo-2-(5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-phenyl]-acetamide (20.6 g, 57.3 mmol), instead of 2-chloro-N-[4-chloro-2-(5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-phenyl]-acetamide, was converted to the title compound (12.6 g, 68%) which was obtained as an off-white solid. MS: m/e=322.0/324.0 [M+H]+.

reactant | 2-chloro-N-[4-bromo-2-(5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-phenyl]-acetamide | 57.3 mmol, 20.6 g | ClCC(=O)NC1=C(C=C(C=C1)Br)C=1NN=C(N1)COC | C12H12BrClN4O2
reactant | 2-chloro-N-[4-chloro-2-(5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-phenyl]-acetamide | ClCC(=O)NC1=C(C=C(C=C1)Cl)C=1NN=C(N1)COC | C12H12Cl2N4O2
product | 9-Bromo-2-methoxymethyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one | 12.6 g, 68% | BrC=1C=CC2=C(C3=NC(=NN3CC(N2)=O)COC)C1 | C12H11BrN4O2
